US05021431
N-[2-[(Quinolin-2-yl)methylthio]ethyl]-N'-[3-(imidazol-4-yl)propyl]-guanidine
0.95 g (2 mmol) of N-benzoyl-N'-[2-[(quinolin-2-yl) methylthio]ethyl]-N"-[3-(imidazol-4-yl)propyl]-guanidine are heated under reflux in 45 ml of 18% hydrochloric acid for 6 hours and the product is worked up by a method analogous to that of Example 109. 0.86 g (90%) of a hygroscopic, non-crystalline solid is obtained.

reactant | N-benzoyl-N'-[2-[(quinolin-2-yl) methylthio]ethyl]-N"-[3-(imidazol-4-yl)propyl]-guanidine | 2 mmol, 0.95 g | C(C1=CC=CC=C1)(=O)NC(=NCCCC=1N=CNC1)NCCSCC1=NC2=CC=CC=C2C=C1 | C26H28N6OS
solvent | hydrochloric acid | 45 ml | Cl | ClH
product | N-[2-[(Quinolin-2-yl)methylthio]ethyl]-N'-[3-(imidazol-4-yl)propyl]-guanidine | N1=C(C=CC2=CC=CC=C12)CSCCNC(=N)NCCCC=1N=CNC1 | C19H24N6S
